US05223526
5-Fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxaldehvde:
A suspension of anhydrous KF (4 g) in anhydrous DMF (20 mL) was stirred under N2 and 1-methyl-3-trifluoromethyl-5-chloropyrazole-4-carboxaldehyde (10.6 g) added. The mixture was heated at 150 ° C. for 6 h. The mixture was poured onto ice (250 g) and was mixed thoroughly. The mixture was extracted with ether (5×50 mL). The ether solution was dried (MgSO4) and concentrated in vacuo leaving an amber liquid (10 g). The liquid was distilled under reduced pressure to give one fraction, 8.0 g yellow liquid b.p. 68-74 ° C. @ 0.4 Torr.

reactant | KF | 4 g | [F-].[K+]
reactant | 1-methyl-3-trifluoromethyl-5-chloropyrazole-4-carboxaldehyde | 10.6 g | CN1N=C(C(=C1Cl)C=O)C(F)(F)F | C6H4ClF3N2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxaldehvde | 10 g | FC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4F4N2O
